US08293768B2
Synthesis of ethyl 4-methyl-2-(2-oxotetrahydropyrimidin-1(2H)-yl)thiazole-5-carboxylate
Following the procedure as described in Example 3, making variations as required to replace 2-chloroethyl isocyanate with 3-chloropropyl isocyanate to react with ethyl 2-amino-4-methylthiazole-5-carboxylate, the title compound was obtained as a brown solid in 32% yield: 1H NMR (300 MHz, DMSO-d6) δ 8.21 (s, 1H), 4.75 (q, J=7.1 Hz, 2H), 4.57 (t, J=5.9 Hz, 2H), 3.80-3.75 (m, 2H), 3.05 (s, 3H), 2.54-2.46 (m, 2H), 1.81 (t, J=7.1 Hz, 3H); MS (ES+) m/z 270.2 (M+1).

reactant | 2-chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
reactant | 3-chloropropyl isocyanate | ClCCCN=C=O | C4H6ClNO
reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
product | ethyl 4-methyl-2-(2-oxotetrahydropyrimidin-1(2H)-yl)thiazole-5-carboxylate | 32% yield | CC=1N=C(SC1C(=O)OCC)N1C(NCCC1)=O | C11H15N3O3S
